US06353027B1
3-[2-(2-Phenyl-4-oxazolyl)ethoxy]benzaldehyde
10.00 g (81.89 mmoles) of 3-hydroxybenzaldehyde, 15.49 g (81.89 mmoles) of 2-(2-phenyl-4-oxazolyl)ethanol, and 21.48 g (81.89 mmoles) of triphenylphosphine were dried under vacuum and combined with 200 mL THF under N2. The mixture was treated with 16.12 mL (81.89 mmoles) of diisopropylazodicarboxylate added dropwise over 0.25 hr resulting in a mild exotherm. After stirring for 24 hr at ambient temperature, the crude reaction mixture was concentrated under reduced pressure to a viscous amber oil. The oil was diluted in 300 mL EtOAc, washed with 2.5 N NaOH (3×200 mL), H2O (2×300), and brine 300 mL. The combined organics were dried over MgSO4 and concentrated under reduced pressure again to a viscous amber oil. The reaction mixture was separated using silica gel column chromatography (6:1 Hex:EtOAc) from which the product was recovered and then recrystallized from iprOH to afford 15.10 g (63.10%.) of white crystalline solid, m.p. 51-53° C.

reactant | 3-hydroxybenzaldehyde | 81.89 mmoles, 10.00 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 2-(2-phenyl-4-oxazolyl)ethanol | 81.89 mmoles, 15.49 g | C1(=CC=CC=C1)C=1OC=C(N1)CCO | C11H11NO2
reactant | triphenylphosphine | 81.89 mmoles, 21.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 81.89 mmoles, 16.12 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-[2-(2-Phenyl-4-oxazolyl)ethoxy]benzaldehyde | C1(=CC=CC=C1)C=1OC=C(N1)CCOC=1C=C(C=O)C=CC1 | C18H15NO3
